* SPICE Model for PAM2423AECADJR
.SUBCKT PAM2423AECADJR IN OUT FB SS COMP EN GND
* IN   - Input voltage
* OUT  - Output voltage
* FB   - Feedback pin
* SS   - Soft-start pin
* COMP - Compensation pin
* EN   - Enable pin
* GND  - Ground

* INPUT VOLTAGE REGULATION
VUVLO UVLO GND DC 2.5          ; Under-voltage lockout threshold

* SOFT-START CIRCUIT 		   ; Soft-Start Pin Bias Current Vss = 1.2V
I_SS SS GND 4.5uA              ; Soft-start current source
C_SS SS GND 10nF               ; External soft-start capacitor (adjustable)

* PWM OSCILLATOR
VOSC OSC GND SIN(0 1 520k)     ; 520 kHz oscillator
R_OSC OSC GND 1MEG             ; Oscillator equivalent resistance

* ERROR AMPLIFIER
EERR COMP GND (OUT FB) 1.262   ; Error amplifier for feedback regulation
RERR COMP GND 1MEG             ; High resistance at COMP pin

* POWER STAGE (PMOS TRANSISTOR)
M1 SW IN GND GND PMOS_MODEL    ; depletion mode N-channel switching transistor, should be NMOS ? no PCHAN parameter.
.MODEL PMOS_MODEL PMOS(VTO=-1 KP=0.5) ; Zero-bias threshold voltage (VTO) + Transconductance parameter (KP)

* INDUCTOR
L1 SW OUT 6.8uH                ; Per example 

* RECTIFIER DIODE
D1 OUT SW SCHOTTKY_MODEL       ; Schottky diode
.MODEL SCHOTTKY_MODEL D(IS=1e-15 N=1.2)

* OUTPUT CAPACITOR WITH ESR MODELED EXPLICITLY
COUT OUT Midpoint 100uF       ; Output capacitor
R_ESR Midpoint GND 0.05       ; ESR modeled as separate resistor

* OVERVOLTAGE PROTECTION
V_OVP_REF OVP_REF GND DC 1.4513   ; OVP threshold at 115% of FB
E_OVP_CTRL OVP_CTRL GND VALUE { V(FB) - V(OVP_REF) } ; Comparator output
S_OVP OVP GND OVP_CTRL GND VSWITCH_MODEL
.MODEL VSWITCH_MODEL SW(RON=0.01 ROFF=1MEG)  ; Removed  VON=0.001 VOFF=0 as it was ignored anyway

* ENABLE PIN (EN)
R_EN EN GND 1MEG              ; Pull-down for EN pin
V_EN ENABLE GND DC 1.4        ; Logic high threshold for enable 1.4V Logic low 0.4V

.ENDS PAM2423AECADJR
