* SPICE model for VLMW1300-GS08 LED
* Based on Vishay VLMW1300-GS08 datasheet
.SUBCKT VLMW1300-GS08 A K
D1 A K LED_MODEL
R1 A K 1MEG ; Leakage resistance
C1 A K 5p ; Parasitic capacitance

* LED diode model
.MODEL LED_MODEL D (
+ IS=1e-14          ; Saturation current (derived for typical forward voltage)
+ N=2               ; Emission coefficient
+ BV=5              ; Reverse breakdown voltage
+ IBV=10u           ; Reverse leakage current
+ TT=0              ; Transit time (assumed negligible)
+ )

.ENDS VLMW1300-GS08
